US06949563B2
Quinoline-4-carbaldehyde 1-oxide
To a vigorously stirring suspension of (1-oxidoquinolin-4-yl)methanol (0.10 g, 0.57 mmol) in acetonitrile (10 mL) was added Dess-Martin periodinane (0.47 g, 0.63 mmol). After 1 h, 2M NaOH (aq, 2 mL) and ethyl acetate (105 mL) were added and the reaction was stirred for 5 min. The layers were then separated and the organic phase was washed with saturated NaHCO3 (aq), brine, and dried over MgSO4, filtered, and concentrated in vacuo to a light yellow solid. MS (ES+): 174 [MH+].

reactant | (1-oxidoquinolin-4-yl)methanol | 0.57 mmol, 0.10 g | [O-][N+]1=CC=C(C2=CC=CC=C12)CO | C10H9NO2
reactant | Dess-Martin periodinane | 0.63 mmol, 0.47 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaOH | 2M, 2 mL | [OH-].[Na+]
reactant | ethyl acetate | 105 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | Quinoline-4-carbaldehyde 1-oxide | [N+]1(=CC=C(C2=CC=CC=C12)C=O)[O-] | C10H7NO2
